US09388136B2
In stage 1, the 2-(4-Amino-3,5-difluorophenyl)ethanol and 4-Chlorophenyl difluorophenyl)-3-oxopropanimidothioate hydro-chloride are reacted together to form 2-(4-{[3-(2,4-Difluorophenyl)-3-oxopropanimidoyl]amino}-3,5-difluorophenyl)ethyl acetate. In stage 2, propiolic acid is added to form 2-{4-[6-Amino-5-(2,4-difluorobenzoyl)-2-oxopyridin-1(2H)-yl]-3,5-difluorophenyl}ethyl acetate. In stage 3, the acetate group is hydrolysed to leave an alcohol and in stage 4 the resulting alcohol group is oxidised to an aldehyde. The compound of the invention is then formed in stage 5, by the addition of tert-butyl L-alaninate hydrochloride. Tert-butyl L-alaninate hydrochloride is commercially available.

reactant | 2-(4-Amino-3,5-difluorophenyl)ethanol | NC1=C(C=C(C=C1F)CCO)F | C8H9F2NO
reactant | 3-oxopropanimidothioate hydro-chloride | Cl.O=CCC(=N)S
product | 2-(4-{[3-(2,4-Difluorophenyl)-3-oxopropanimidoyl]amino}-3,5-difluorophenyl)ethyl acetate | C(C)(=O)OCCC1=CC(=C(C(=C1)F)NC(CC(=O)C1=C(C=C(C=C1)F)F)=N)F | C19H16F4N2O3
